US05430041
In a manner analogous to that described in Example 6, 68 mg (0.26 mmol) of N-benzyloxycarbonyl-3-methyl-L-valine were coupled with 90 mg (0.26 mmol) of 2(S)-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide to give 40 mg of 2(S)-[3(S)-[[N-(benzyloxycarbonyl)-3-methyl-L-valyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide as a white solid of melting point 90° C. (decomposition); MS m/e 594 [M+H]+.

reactant | N-benzyloxycarbonyl-3-methyl-L-valine | 0.26 mmol, 68 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)(C)C)C(=O)O | C14H19NO4
reactant | 2(S)-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide | 0.26 mmol, 90 mg | N[C@H]([C@@H](C[C@H]1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C21H34N2O2
product | 2(S)-[3(S)-[[N-(benzyloxycarbonyl)-3-methyl-L-valyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide | 40 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)(C)C)C(=O)N[C@H]([C@@H](C[C@H]1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C35H51N3O5
